US07544835B2
19.2 g of {3-[3-(4 (S)-Benzyl-2-oxooxazolidin-3-yl)-1-(R)-hydroxy-2(S)-isopropoxy-3-oxopropyl]benzyl}-carbamic acid t-butyl ester was dissolved in 100 ml of pyridine, and 4.35 ml of methanesulfonyl chloride was added dropwise under ice-cooling. After stirring was continued for 2 hours under ice-cooling and for 3 hours at room temperature, the reaction solution was diluted with ethyl acetate and washed successively with 1N hydrochloric acid and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent was concentrated, to give methanesulfonic acid 1 (R)-(3-aminomethylphenyl)-3-(4 (S)-benzyl-2-oxooxazolidin-3-yl)-2(S)-isopropoxy-3-oxopropyl ester. This product was dissolved in 500 ml of ethanol, and 10 g of 10% palladium carbon and 5 g of potassium acetate were added, and the mixture was stirred overnight at room temperature under hydrogen atmosphere. The reaction solution was filtered and the filtrate was concentrated. The residue was diluted with ethyl acetate and washed with saturated aqueous sodium hydrogencarbonate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography, to give 15.3 g of the title compound as a white solid in the 2:1→3:2 hexane-ethyl acetate fraction.

reactant | {3-[3-(4 (S)-Benzyl-2-oxooxazolidin-3-yl)-1-(R)-hydroxy-2(S)-isopropoxy-3-oxopropyl]benzyl}-carbamic acid t-butyl ester | 19.2 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)[C@H]([C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)OC(C)C)O)=O | C28H36N2O7
reactant | methanesulfonyl chloride | 4.35 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methanesulfonic acid 1 (R)-(3-aminomethylphenyl)-3-(4 (S)-benzyl-2-oxooxazolidin-3-yl)-2(S)-isopropoxy-3-oxopropyl ester | NCC=1C=C(C=CC1)[C@H]([C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)OC(C)C)OS(=O)(=O)C | C24H30N2O7S
